US08703771B2
Step C: (1S)-1-(4-Methylpiperazin-1-yl)-N-(4-methyl-3-[(4-pyridin-4-ylpyrimidin-2-yl)amino]phenyl)-2,3-dihydro-1H-indene-5-carboxamide
The title compound was prepared by condensation reaction between ethyl (1S)-1-(4-methylpiperazin-1-yl)-2,3-dihydro-1H-indene-5-carboxylate and 4-methyl-N(3)-(4-pyridin-4-ylpyrimidin-2-yl)benzene-1,3-diamine, according to the procedure described in Step C of EXAMPLE 11. MS (M+1)=520.27. 1HNMR (DMSO-d6, ppm): δ 10.14 (s, 1H); 9.04 (s, 1H); 8.07 (d, J=4.4 Hz, 2H); 8.55 (d, J=4.8 Hz, 1H); 8.06 (s, 1H); 8.04 (d, J=4.4 Hz, 2H); 7.78 (s, 1H); 7.75 (d, J=8.8 Hz, 1H); 7.45 (d, J=7.6 Hz, 1H); 7.44 (d, J=4.8 Hz, 1H); 7.35 (d, J=7.6 Hz, 1H); 7.18 (d, J=8.8 Hz, 1H); 4.31 (t, J=7.2 Hz, 1H); 2.0-3.0 (m, 10H); 2.19 (s, 3H); 2.12 (s, 3H); 2.04 (m, 2H).

reactant | ethyl (1S)-1-(4-methylpiperazin-1-yl)-2,3-dihydro-1H-indene-5-carboxylate | CN1CCN(CC1)[C@H]1CCC2=CC(=CC=C12)C(=O)OCC | C17H24N2O2
reactant | 4-methyl-N(3)-(4-pyridin-4-ylpyrimidin-2-yl)benzene-1,3-diamine | CC1=C(C=C(C=C1)N)NC1=NC=CC(=N1)C1=CC=NC=C1 | C16H15N5
product | (1S)-1-(4-Methylpiperazin-1-yl)-N-(4-methyl-3-[(4-pyridin-4-ylpyrimidin-2-yl)amino]phenyl)-2,3-dihydro-1H-indene-5-carboxamide | CN1CCN(CC1)[C@H]1CCC2=CC(=CC=C12)C(=O)NC1=CC(=C(C=C1)C)NC1=NC=CC(=N1)C1=CC=NC=C1 | C31H33N7O
